US09079889B2
To a degassed solution of 6-cyclohexenyl-5-fluoropicolinic acid (1.0 equiv.) in MeOH (0.07M) was added 10% Pd/C (0.1 equiv.) and the reaction was stirred under a hydrogen balloon overnight. The solution was then filtered, rinsed with MeOH, and the filtrate was concentrated to afford 6-cyclohexyl-5-fluoropicolinic acid in 65% yield. LC/MS=224.2 (M+H), Rt=0.95 min.

reactant | 6-cyclohexenyl-5-fluoropicolinic acid | 1.0 equiv. | C1(=CCCCC1)C1=C(C=CC(=N1)C(=O)O)F | C12H12FNO2
solvent | MeOH | 0.07M | CO | CH4O
catalyst | Pd/C | 0.1 equiv. | [Pd] | Pd
product | 6-cyclohexyl-5-fluoropicolinic acid | 65% yield | C1(CCCCC1)C1=C(C=CC(=N1)C(=O)O)F | C12H14FNO2
